US07718692B2
A. Pyridine-2-carboxylic acid (4-benzyloxyphenyl)amide.
A solution of pyridine-2-carboxylic acid (2.0 g, 8.48 mmol) in N,N-dimethylformamide (DMF) was treated with O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) (3.5 g, 9.33 mmol) and N,N-diisopropylethylamine (DIEA) (0.742 mL, 32.7 mmol) and stirred at room temperature for 10 min. 4-Benzyloxyaniline hydrochloride (2.0 g, 8.48 mmol) was added to the solution, and stirring was continued for an additional 30 min. The solution was poured into a saturated aqueous solution of sodium bicarbonate on ice. Mechanically mixing the gummy residue in the bottom of the flask caused it to solidify. The product was collected by filtration, washed with water and dried to give a beige solid, 2.46 g (95%), which was used without further purification in the subsequent reaction. MS m/z 305 (MH+). 1H NMR(CDCl3) δ 5.07 (s, 2H), 7.0 (d, 2H), 7.30-7.50 (m, 6H), 7.70 (d, 2H), 7.92 (t, 1H), 8.32 (d, 1H) and 8.58 (d, 1H).

reactant | pyridine-2-carboxylic acid | 8.48 mmol, 2.0 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 9.33 mmol, 3.5 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 32.7 mmol, 0.742 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-Benzyloxyaniline hydrochloride | 8.48 mmol, 2.0 g | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Pyridine-2-carboxylic acid (4-benzyloxyphenyl)amide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)C1=NC=CC=C1 | C19H16N2O2
